US05378718
3-Chloro-6-(2-hydroxyethoxy)benzaldehyde
Prepared from 25 g of 3-chloro-6-hydroxybenzaldehyde, 14 g of ethylene carbonate and 45 g of tetraethylammonium bromide as described in Example VIIa. The compound was purified by chromatography (silica, ethyl acetate:petroleum ether 60-80/2:1).

reactant | 3-chloro-6-hydroxybenzaldehyde | 25 g | ClC=1C=C(C=O)C(=CC1)O | C7H5ClO2
reactant | ethylene carbonate | 14 g | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium bromide | 45 g | [Br-].C(C)[N+](CC)(CC)CC
product | 3-Chloro-6-(2-hydroxyethoxy)benzaldehyde | ClC=1C=C(C=O)C(=CC1)OCCO | C9H9ClO3
